US06576656B1
1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-hydroxyethyl-3-hydroxy-3-(2-naphthyl)oxindole
To a solution of 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-ethoxycarbonyl-3-hydroxy-3-(2-naphthyl)oxindole (605 mg, 0. 118 mmol) in toluene (1 mL) was added dropwise 1.01 N diisobutylaluminium hydride in toluene (0.36 mL, 0.364 mmol). The mixture was allowed to warm to room temperature over 4 h. Sat. aqueous NaHCO3 and ethyl acetate were added. Insoluble materials were removed by filtration and the organic layer was separated, dried over MgSO4, and concentrated. The residue was purified by silica gel column chromatography with 30:1 to 15:1 chloroform/methanol to give the title compound (5 mg, 9%).

reactant | 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-ethoxycarbonyl-3-hydroxy-3-(2-naphthyl)oxindole | 118 mmol, 605 mg | C(C)N(CCN1C(C(C2=C(C=C(C=C12)C(=O)OCC)C(F)(F)F)(C1=CC2=CC=CC=C2C=C1)O)=O)CC | C28H29F3N2O4
reactant | diisobutylaluminium hydride | 1.01 N | [H-].C(C(C)C)[Al+]CC(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.364 mmol, 0.36 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-hydroxyethyl-3-hydroxy-3-(2-naphthyl)oxindole | 5 mg, 9% | C(C)N(CCN1C(C(C2=C(C=C(C=C12)CCO)C(F)(F)F)(C1=CC2=CC=CC=C2C=C1)O)=O)CC | C27H29F3N2O3
